US08350044B2
Preparation of ethyl 5-bromo-2-(pyridin-3-yl)thiazole-4-carboxylate
A tetrahydrofuran (15 mL) solution of ethyl 2-(pyridin-3-yl)thiazole-4-carboxylate (1.17 g, 5.0 mmol) was added to −78° C. solution of potassium bis(trimethylsilyl)amide (12 mL, 6 mmol, 0.5 M in toluene) over 2 min. This reaction mixture was allowed to stir for 1.5 h and then was transferred via canula into a −78° C. solution of N-bromosuccinimide (1.35 g, 7.5 mmol) in tetrahydrofuran (5 mL). This mixture was stirred for 5 min and then the reaction vessel was removed from the cooling bath and allowed to warm to room temperature over 3 h. The reaction was quenched by pouring into a mixture of ether and water. The layers were separated and the aqueous layer was extracted twice with ethyl acetate. The combined organics were dried over MgSO4, filtered, and the solvent was removed in vacuo. The residue was subjected to silica gel chromatography (0 to 100% ethyl acetate/hexanes) to give the desired product as a white solid (824 mg, 52%): 1H NMR (300 MHz, CDCl3) δ 9.09 (d, J=2.3 Hz, 1H), 8.71 (dd, J=4.9, 1.3 Hz, 1H), 8.25 (dt, J=8.2, 1.7 Hz, 1H), 7.41 (dd, J=7.9, 4.9 Hz, 1H), 4.48 (q, J=7.3 Hz, 2H), 1.46 (t, J=7.3 Hz, 3H); ESIMS m/z 315.0 (M+2).

reactant | ethyl 2-(pyridin-3-yl)thiazole-4-carboxylate | 5.0 mmol, 1.17 g | N1=CC(=CC=C1)C=1SC=C(N1)C(=O)OCC | C11H10N2O2S
reactant | potassium bis(trimethylsilyl)amide | 6 mmol, 0.5 M, 12 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | N-bromosuccinimide | 7.5 mmol, 1.35 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | ethyl 5-bromo-2-(pyridin-3-yl)thiazole-4-carboxylate | 824 mg, 52% | BrC1=C(N=C(S1)C=1C=NC=CC1)C(=O)OCC | C11H9BrN2O2S
